US07776857B2
In a 25 mL round bottom flask was dissolved 6-(trifluoromethoxy)quinolin-4(1H)-one (0.50 g, 2.18 mmol) in POCl3(3.05 mL). A reflux condenser was attached and the reaction mixture was stirred at 130° C. for 3 hours. The reaction turned dark brown and became homogeneous. The reaction was cooled to RT, poured slowly into ice bath while stirring. A thick gum resulted, which was basified with 6N NaOH to give a dark brown solution. The solution was extracted into ethyl acetate, washed 1× water, 1× NaCl, dried with Na2SO4, filtered through fritted funnel, concentrated down. The curde material was purified using an Isco silica gel chromatography system eluting with a solvent gradient of 0-100% CH2Cl2:MeOH(90:10)/CH2Cl2. The product fractions were concentrated down to yield 4-chloro-6-(trifluoromethoxy)quinoline as an orange oil. MS [M+H]=248.0; Calc'd 247.6 for C10H5ClF3NO.

reactant | 6-(trifluoromethoxy)quinolin-4(1H)-one | 2.18 mmol, 0.50 g | FC(OC=1C=C2C(C=CNC2=CC1)=O)(F)F | C10H6F3NO2
reactant | NaOH | 6N | [OH-].[Na+]
reactant | POCl3 | 3.05 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-(trifluoromethoxy)quinoline | ClC1=CC=NC2=CC=C(C=C12)OC(F)(F)F | C10H5ClF3NO
